US06538159B2
A mixture of 4-hydroxy-3-methoxybenzyl alcohol (76.1 g) and sodium cyanide (19.9 g) in dimethylformamide (250 ml) is stirred under an atmosphere of nitrogen for 3 hours at +120° C. The reaction mixture is cooled to +90° C. and 1-chloro-4-(3-chloro-propenyl)-benzene is added. The mixture is stirred at said temperature for 2 hours. After cooling it is poured into water (1000 ml) and extracted with ethyl acetate (2×500 ml). The organic layers are washed with brine (2×500 ml), dried (MgSO4) and evaporated. The residue is purified by flash column chromatography using silica gel and ethyl acetate/hexane (1:3). The product obtained is dissolved in methanol (400 ml) and hydrogenated over Raney-cobalt at +40° C. and 100 bar. Water (300 ml) and ethyl acetate (200 ml) are added. After filtration the reaction mixture is extracted with ethyl acetate (2×500 ml). The organic layers are washed with brine (2×200 ml), dried (K2CO3) and evaporated. 2-{4-[3-(4-Chloro-phenyl)-allyloxy]-3-methoxy-phenyl}-ethylamine is obtained.

reactant | 4-hydroxy-3-methoxybenzyl alcohol | 76.1 g | OC1=C(C=C(CO)C=C1)OC | C8H10O3
reactant | sodium cyanide | 19.9 g | [C-]#N.[Na+]
reactant | 1-chloro-4-(3-chloro-propenyl)-benzene | ClC1=CC=C(C=C1)C=CCCl | C9H8Cl2
reactant | water | 1000 ml | O | H2O
reactant | Water | 300 ml | O | H2O
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | methanol | 400 ml | CO | CH4O
solvent | cobalt | [Co] | Co
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 2-{4-[3-(4-Chloro-phenyl)-allyloxy]-3-methoxy-phenyl}-ethylamine | ClC1=CC=C(C=C1)C=CCOC1=C(C=C(C=C1)CCN)OC | C18H20ClNO2
